US06858627B2
Synthesis of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline
4-[1-(2-Cyclohexylethoxy)ethyl]-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester (70 mg) was treated with 255 μL of 1 M solution of sodium bis(trimethylsilyl)amide in THF and 49 mg of 2-cyclohexylethyl bromide to give the alkylated product, which was deprotected to yield 31 mg of title compound as an oil.

reactant | 4-[1-(2-Cyclohexylethoxy)ethyl]-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)O)(C)C.C1(CCCCC1)CCOC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-cyclohexylethyl bromide | 49 mg | C1(CCCCC1)CCBr | C8H15Br
solvent | THF | C1CCOC1 | C4H8O
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline | 31 mg | C(\C=C\C)OC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NO2
